US07282373B2
A. 4-(bromopropionamido)-phenylarsine-EDT
1,2-Ethanedithiol (Aldrich; 25 μl, 0.30 mmol) was added to 4-(bromopropionamido)-phenylarsineoxide as prepared above(100 mg, 0.30 mol) dissolved in 1 ml of hot methanol. After 5 min, a white solid precipitated and was collected. Yield: 63.7 mg, 0.16 mmol, 53%.

reactant | 1,2-Ethanedithiol | 0.30 mmol, 25 μl | C(CS)S | C2H6S2
reactant | 4-(bromopropionamido)-phenylarsineoxide | BrCCC(=O)NC1=CC=C(C=C1)[AsH2]=O | C9H11AsBrNO2
solvent | methanol | 1 ml | CO | CH4O
product | 4-(bromopropionamido)-phenylarsine | BrCCC(=O)NC1=CC=C(C=C1)[AsH2] | C9H11AsBrNO
